US07339058B2
Preparation of 2-(2,2-Difluoroethoxy)-N-(5,8-dimethoxy-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl)-6-(trifluoromethyl)benzenesulfonamide
2-Amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine (7.8 g, 0.040 mol) and 2-(2,2-difluoroethoxy)-6-(trifluoromethyl)benzenesulfonyl chloride (13 g, 0.040 mol) were combined in 3,5-lutidine (31 g, 0.29 mol, 7.2 eq). The slurry was treated with methyl sulfoxide (0.040 g, 0.0005 mol, 0.012 eq) and stirred at ambient conditions for 8.5 hours. The reaction slurry was filtered, and the wet cake solids were slurried in a mixture of 15% sulfuric acid (80 mL) and acetonitrile (20 mL). The mixture was stirred for 25 minutes, then filtered, and the solids washed with water. After drying under vacuum at 55° C., 18 g of product was obtained as a white solid assaying at 97.4 wt % (91% yield).

reactant | 2-Amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine | 0.040 mol, 7.8 g | NC1=NN2C(=NC=C(C2=N1)OC)OC | C7H9N5O2
reactant | 2-(2,2-difluoroethoxy)-6-(trifluoromethyl)benzenesulfonyl chloride | 0.040 mol, 13 g | FC(COC1=C(C(=CC=C1)C(F)(F)F)S(=O)(=O)Cl)F | C9H6ClF5O3S
reactant | 3,5-lutidine | 0.29 mol, 31 g, 7.2 eq | N1=CC(=CC(=C1)C)C | C7H9N
catalyst | methyl sulfoxide | 0.0005 mol, 0.040 g, 0.012 eq | CS(=O)C | C2H6OS
product | 2-(2,2-Difluoroethoxy)-N-(5,8-dimethoxy-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl)-6-(trifluoromethyl)benzenesulfonamide | 18 g, 91% yield | FC(COC1=C(C(=CC=C1)C(F)(F)F)S(=O)(=O)NC1=NN2C(=NC=C(C2=N1)OC)OC)F | C16H14F5N5O5S
